US09328112B2
4-chloro-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde
A mixture of 4-chloro-1H-pyrrolo[2,3-b]pyridine (15 g, 98 mmol) and hexamethylenetetramine (25.00 g, 178 mmol) in aqueous acetic acid (33%, 15 mL) was heated at 100° C. overnight. After cooling, the mixture was poured into ice-water and stirred for several minutes. The solid material was collected by filtration, washed with water, and dried in vacuo to provide the title compound. MS (ESI+) m/z 181 (M+H)+.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 98 mmol, 15 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | hexamethylenetetramine | 178 mmol, 25.00 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-chloro-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | ClC1=C2C(=NC=C1)NC=C2C=O | C8H5ClN2O
